US07875606B2
A solution of 3.77 g (17.0 mmoles) of (4-ethoxy-6-trifluoromethylpyrimidin-5-yl)-methanol dissolved in 50 ml of ether was cooled to 0° C. Thereto was added 2.0 g (7.2 mmoles) of phosphorus tribromide. The mixture was stirred at room temperature for 1 hour. The resulting salt was dissolved in methanol and the solution was stirred for 1 hour to give rise to a reaction. The reaction mixture was poured into water and extraction with ether was conducted. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein, to obtain a crude product of 5-bromomethyl-4-ethoxy-6-trifluoromethylpyrimidine.

reactant | (4-ethoxy-6-trifluoromethylpyrimidin-5-yl)-methanol | 17.0 mmoles, 3.77 g | C(C)OC1=NC=NC(=C1CO)C(F)(F)F | C8H9F3N2O2
reactant | phosphorus tribromide | 7.2 mmoles, 2.0 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 5-bromomethyl-4-ethoxy-6-trifluoromethylpyrimidine | BrCC=1C(=NC=NC1C(F)(F)F)OCC | C8H8BrF3N2O
